US07109229B2
(d) 3-[1-(3-Bromopropyl)-6-methoxy-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione
To a solution of 3-[1-(3-hydroxypropyl)-6-methoxy-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione (3.0 g, 7.0 mmol) in solution of DMF (300 mL) was added PPh3 (2.6 g, 10.5 mmol) and CBr4 (3.3 g, 10.5 mmol). The reaction mixture was stirred at room temperature and under nitrogen for 1 h. The reaction was monitored by TLC and was completed after 2 h. The reaction mixture was diluted with EtOAc (300 mL) and water (800 mL). The aqueous phase was extracted with EtOAc (3×300 ml). The combined organic phases were washed with saturated aq NaHCO3 (300 mL), brine (500 mL) dried (MgSO4), filtered and concentrated. Flash chromatography (SiO2, 30% EtOAc/hexanes) gave the title compound (2.4 g, 71%) as a red solid. 1H NMR (300 MHz, DMSO-d6) 11.04 (s, 1H), 7.88 (s, 1H), 7.62 (d, J=6.1 Hz, 1H), 7.19 (d, J=2.6 Hz, 1H), 7.00–6.91 (m, 2H), 6.84 (d, J=6.0 Hz, 1H), 6.48 (d, J=2.5 Hz, 1H), 6.10 (m, 2H), 4.27 (t, J=5.8 Hz, 2H), 3.71 (s, 3H), 3.62 (s, 3H), 3.32 (t, J=5.8 Hz, 2H), 2.11 (m, 2H). MS (electrospray, m/z) 492.1/494.1 (M++1), 490.2/492.2 (M−−1).

reactant | 3-[1-(3-hydroxypropyl)-6-methoxy-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | 7.0 mmol, 3.0 g | OCCCN1C=C(C2=CC=C(C=C12)OC)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C25H23N3O4
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
reactant | PPh3 | 10.5 mmol, 2.6 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 10.5 mmol, 3.3 g | C(Br)(Br)(Br)Br | CBr4
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | water | 800 mL | O | H2O
product | 3-[1-(3-Bromopropyl)-6-methoxy-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | 2.4 g, 71% | BrCCCN1C=C(C2=CC=C(C=C12)OC)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C25H22BrN3O3
